US04206137
(a) trans-2-Formylcyclopentanecarboxylic acid, methyl ester
A solution of 25 g. (83.3 mmoles) of trans-2-dibromomethyl-1-cyclopentanecarboxylic acid, methyl ester [prepared as described in Chem. Ber. 110, 1823 (1977), from cyclopentene and dibromoketene] in 140 ml. of tetrahydrofuran is heated to reflux in a nitrogen atmosphere. While stirring, a solution of 33.0 g. (194 mmole) of silver nitrate in 55 ml. of water is added over a period of ten minutes. After an additional thirty minutes of heating and stirring the mixture is cooled and saturated aqueous sodium chloride solution is added. The mixture is then neutralized with saturated aqueous sodium carbonate solution and the insoluble salts are removed by filtration through a Celite (diatomaceous earth) pad. The pad is washed with ether and some solid sodium chloride is added to the filtrate. The layers are separated and the aqueous portion is reextracted twice with ether. The combined organic layers are dried over magnesium sulfate, filtered and taken to dryness in vacuo leaving 7.5 g. of amber oil. This is distilled at reduced pressure collecting 4.1 g. (32%) of product, trans-2-formylcyclopentanecarboxylic acid, methyl ester, boiling at 60°-85°/0.4 mm.

reactant | trans-2-dibromomethyl-1-cyclopentanecarboxylic acid, methyl ester | 83.3 mmoles | BrC([C@H]1[C@@H](CCC1)C(=O)OC)Br | C8H12Br2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | silver nitrate | 194 mmole | [N+](=O)([O-])[O-].[Ag+]
solvent | water | O | H2O
product | trans-2-Formylcyclopentanecarboxylic acid, methyl ester | C(=O)[C@H]1[C@@H](CCC1)C(=O)OC | C8H12O3
